US07795267B2
Phenyl 1,1-dicyclopropyl-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
(Phenylmethyl) 1,1-dicyclopropyl-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (0.18 g, 0.50 mmol) was dissolved in ethanol (10 mL). 10% Palladium carbon (17 mg) was added thereto, and the mixture was stirred under hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through Celite, the Celite was washed with ethanol, and the filtrate was concentrated under reduced pressure. The resulting 1,1-dicyclopropyl-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one was dissolved in tetrahydrofuran (10 mL). Triethylamine (0.14 mL, 0.99 mmol) and phenyl chlorocarbonate (90 μL, 0.74 mmol) were added thereto, and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=7:1 to 1:1) and recrystallized from diisopropyl ether-hexane to obtain the title compound (0.15 g, 88% yield (phenylmethyl) 1,1-dicyclopropyl-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate).

reactant | (Phenylmethyl) 1,1-dicyclopropyl-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.50 mmol, 0.18 g | C1(CC1)C1(OC(N2C1CN(CC2)C(=O)OCC2=CC=CC=C2)=O)C2CC2 | C20H24N2O4
reactant | Triethylamine | 0.99 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 0.74 mmol, 90 μL | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Palladium carbon | 17 mg | [C].[Pd]
product | Phenyl 1,1-dicyclopropyl-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.15 g, 88% yield | C1(CC1)C1(OC(N2C1CN(CC2)C(=O)OC2=CC=CC=C2)=O)C2CC2 | C19H22N2O4
